US06175007B1
Following the procedure described in Example 40 and using 3.4 g (8 mmol) of tetraisopropyl bromomethanediphosphonate, 0.2 g (8 mmol) of sodium hydride and 1.6 g (4 mmol) of 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzaldehyde, a crude product is obtained whose silica gel chromatography first revealed 0.5 g of diisopropyl 1-bromo-2-[2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl]vinylphosphonate followed by 0.4 g of diisopropyl 2-[2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl]ethynylphosphonate.

reactant | tetraisopropyl bromomethanediphosphonate | 8 mmol, 3.4 g | BrC(P(OC(C)C)(=O)OC(C)C)P(OC(C)C)(=O)OC(C)C | C13H29BrO6P2
reactant | sodium hydride | 8 mmol, 0.2 g | [H-].[Na+]
reactant | 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzaldehyde | 4 mmol, 1.6 g | ClC1=C(C=O)C=C(C(=C1)F)C1=NN(C(=C1Cl)OC(F)F)C | C12H7Cl2F3N2O2
product | diisopropyl 1-bromo-2-[2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorophenyl]vinylphosphonate | 0.5 g | BrC(=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)Cl)P(OC(C)C)(OC(C)C)=O | C19H21BrCl2F3N2O4P
